US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-4-(methylsulfonyl)benzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 4-methylsulfonylbenzenesulfonylchloride (69 mg, 0.269 mmole) to give 38 mg as purple solid. M+1 565.3 Calcd 565.12. 1HNMR δ 8.08-7.48 (m, 9H), 6.76 (d, 1H), 6.48 (dd, 1H), 6.32 (d, 1H), 3.61 (app t, 2H), 3.38 (app t, 2H), 3.21 (app t, 2H), 3.17 (app t, 2H), 3.14 (app t, 2H), 2.08-2.00 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 4-methylsulfonylbenzenesulfonylchloride | 0.269 mmole, 69 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-4-(methylsulfonyl)benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H28N4O6S3.ClH/c1-35(29,30)20-9-11-22(12-10-20)37(33,34)26-23-13-8-19(28-16-5-14-25-15-17-28)18-24(23)27-36(31,32)21-6-3-2-4-7-21;/h2-4,6-13,18,25-27H,5,14-17H2,1H3;1H
